US04280998
0.1 mol of 4-(3-chlorophenyl)-1,4-dihydro-6-methyl-pyridazine-3,5-dicarboxylic acid 5-ethyl 3-methyl ester is saponified with 0.105 mol of KOH analogously to Example 28 to give 4-(3-chlorophenyl)-1,4-dihydro-6-methyl-pyridazine-3,5-dicarboxylic acid 5-ethyl ester. Melting point 182° C. (ethanol).

reactant | 4-(3-chlorophenyl)-1,4-dihydro-6-methyl-pyridazine-3,5-dicarboxylic acid 5-ethyl 3-methyl ester | 0.1 mol | COC(=O)C1=NNC(=C(C1C1=CC(=CC=C1)Cl)C(=O)OCC)C | C16H17ClN2O4
reactant | KOH | 0.105 mol | [OH-].[K+]
product | 4-(3-chlorophenyl)-1,4-dihydro-6-methyl-pyridazine-3,5-dicarboxylic acid 5-ethyl ester | C(C)OC(=O)C=1C(C(=NNC1C)C(=O)O)C1=CC(=CC=C1)Cl | C15H15ClN2O4
